US04510331
A 1,000-ml three-necked flask equipped with hydrogen bromide inlet, thermometer and stirrer was charged with 100 g (0.7 mole) of 7-octenoic acid obtained in (2) above, 1 g of benzoyl peroxide and 600 ml of toluene. While maintaining the inside temperature at 5° C., hydrogen bromide was introduced with stirring at a rate of 20 liters per hour over 2 hours. The liquid reaction mixture was then washed with 100 ml of 0.1N aqueous sodium thiosulfate solution and 100 ml of water and then the toluene was distilled off. The residue was recrystallized from petroleum ether to give 143.6 g of 8-bromocaprylic acid (m.p. 35°-37° C.). The yield was thus 92% based on the charged 7-octenoic acid.

reactant | benzoyl peroxide | 1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | hydrogen bromide | Br | BrH
reactant | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | 8-bromocaprylic acid | 143.6 g | BrCCCCCCCC(=O)O | C8H15BrO2
